US04749791
30.0 g of 6,8-dichloro-3,4-dihydro-2(1H)-naphthalenone were boiled at reflux for 2 hours in 250 ml of benzene and 11.5 ml of pyrrolidine in the presence of 0.5 g of anhydrous p-toluenesulphonic acid. For purification, the 1-(6,8-dichloro-3,4-dihydro-2-naphthyl)pyrrolidine obtained was triturated with 150 ml of isopropyl ether. The filtered-off solid exhibits a melting point of 84°-86°. A further portion of melting point 84.5°-85.5° can be isolated from the mother liquors. The two portions were combined and, after recrystallization from isopropyl ether, there was obtained 1-(6,8-dichloro-3,4-dihydro-2-naphthyl)pyrrolidine of melting point 85.5°-86°.

reactant | 6,8-dichloro-3,4-dihydro-2(1H)-naphthalenone | 30.0 g | ClC=1C=C2CCC(CC2=C(C1)Cl)=O | C10H8Cl2O
reactant | pyrrolidine | 11.5 ml | N1CCCC1 | C4H9N
reactant | p-toluenesulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 1-(6,8-dichloro-3,4-dihydro-2-naphthyl)pyrrolidine | ClC=1C=C2CCC(=CC2=C(C1)Cl)N1CCCC1 | C14H15Cl2N
